US09085555B2
A. (2S,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,3S)-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (800 mg, 3.46 mmol; prepared according to J. Amer. Chem. Soc. 2005, 127, 15923-15932) in CH2Cl2 (35 mL) were added successively 3-chloro-2-fluorobenzylamine (0.435 mL, 3.46 mmol), HBTU (1.97 g, 5.19 mmol), DIPEA (1.21 mL, 6.92 mmol). After stirring at RT for 18 h, the reaction mixture was diluted with CH2Cl2 and the organics were washed with water (2×), 0.1N aqueous HCl (2×), aqueous NaHCO3 solution (2×) and brine, dried (phase separator) and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel (EtOAc/c-hexane 1:2 to 4:1 then EtOAc) to afford the title compound as a colorless wax. TLC Rf (EtOAc/c-hexane 1:1)=0.32; MS (LC/MS): 373 [M+H]+, 395 [M+Na]+, 767 [2M+Na]+; tR (HPLC conditions C): 4.42 min.

reactant | (2S,3S)-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 3.46 mmol, 800 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(=O)O | C10H17NO5
reactant | 3-chloro-2-fluorobenzylamine | 3.46 mmol, 0.435 mL | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 5.19 mmol, 1.97 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.92 mmol, 1.21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H22ClFN2O4
